US05385925
4'-[(2-n-Butyl-6-(7-nitro-benzofurazan-4-yl-amino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid
Prepared from 4'-[(6-amino-2-n-butyl-benzimidazol-1-yl)methyl]biphenyl-2-carboxylic acid and 4-chloro-7-nitro-benzofurazan in pyridine at ambient temperature.

reactant | 4'-[(6-amino-2-n-butyl-benzimidazol-1-yl)methyl]biphenyl-2-carboxylic acid | NC=1C=CC2=C(N(C(=N2)CCCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)O)C1 | C25H25N3O2
reactant | 4-chloro-7-nitro-benzofurazan | ClC1=CC=C(C=2C1=NON2)[N+](=O)[O-] | C6H2ClN3O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4'-[(2-n-Butyl-6-(7-nitro-benzofurazan-4-yl-amino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2)NC2=CC=C(C=1C2=NON1)[N+](=O)[O-] | C31H26N6O5
